US04714492
6.0 gms of crude methyl 1,6-dimethyl-2-phenyl-4-oxonicotinate is suspended in 66 g of 5% aqueous sodium hydroxide solution. The reaction mixture is heated on a steambath (85°) for two hours. The resulting homogeneous solution is cooled and acidified with dilute HCl. The resulting solid is collected by filtration yielding 4.9 g of 1,6-dimethyl-2-phenyl-4-oxonicotinic acid. mp (acetonitrile/methylene chloride)=246°-249° C. (dec.).

reactant | methyl 1,6-dimethyl-2-phenyl-4-oxonicotinate | 6.0 gms | CN1C(=C(C(=O)OC)C(C=C1C)=O)C1=CC=CC=C1 | C15H15NO3
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 66 g | [OH-].[Na+]
product | 1,6-dimethyl-2-phenyl-4-oxonicotinic acid | 4.9 g | CN1C(=C(C(=O)O)C(C=C1C)=O)C1=CC=CC=C1 | C14H13NO3
